US07932272B2
N-(4-Benzyloxy-benzyl)-N′-cyano-quinoline-6-carboxamidine
To a mixture of quinoline-6-carbothioic acid 4-benzyloxy-benzylamide described in Preparation Example E+-10 (57 mg, 0.15 mmol) and toluene (2 mL) was added benzyl bromide (0.089 mL, 0.74 mmol), which was then stirred under reflux for 90 minutes. After cooling, the solvent was evaporated in vacuo, and the residue was washed with diethyl ether twice. A mixture of a portion (16 mg) of the resulting crude product (72 mg), cyanamide (20 mg, 0.48 mmol) and N-methylpyrrolidinone (1 mL) was stirred for 2.5 hours at 120° C. After cooling, the reaction solution was filtered through a membrane filter, the filtrate was directly purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (0.76 mg, 0.0015 mmol, 4.5%) was obtained.

reactant | quinoline-6-carbothioic acid 4-benzyloxy-benzylamide | C(C1=CC=CC=C1)OC1=CC=C(CNC(=S)C=2C=C3C=CC=NC3=CC2)C=C1 | C24H20N2OS
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | benzyl bromide | 0.74 mmol, 0.089 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cyanamide | 0.48 mmol, 20 mg | N#CN | CH2N2
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-Benzyloxy-benzyl)-N′-cyano-quinoline-6-carboxamidine | 0.0015 mmol, 0.76 mg, 4.5% | C(C1=CC=CC=C1)OC1=CC=C(CNC(=NC#N)C=2C=C3C=CC=NC3=CC2)C=C1 | C25H20N4O
